US06828460B2
3-(2,4-dihydroxyphenyl)-2-cyclohexen-1-one
3-[2,4-Bis(methoxymethoxy)phenyl]-2-cyclohexen-1-one (50 m g) was heated to 50° C. in methanol (4 ml) containing acidic ion exchange resin (500 mg). After 2 hr, the mixture was filtered and the filtrate was evaporated in vacuo and purified by flash column chromatography (SiO2, ether/petroleum ether, 9:1, v/v) to furnish the title compound as a yellow solid (31 mg, 76%). δH (DMSO) 1.95 (2H, quintet), 2.30 (2H, t), 2.69 (2H, t), 6.26 (2H, overlapping m), 6.35 (1H, m), 7.10 (1H, d), 9.67 (1H, bs), 9.86 (1H, bs); m/z (ES−) 407 (2M−H)−.

reactant | 3-[2,4-Bis(methoxymethoxy)phenyl]-2-cyclohexen-1-one | COCOC1=C(C=CC(=C1)OCOC)C1=CC(CCC1)=O | C16H20O5
solvent | methanol | 4 ml | CO | CH4O
product | 3-(2,4-dihydroxyphenyl)-2-cyclohexen-1-one | 31 mg, 76% | OC1=C(C=CC(=C1)O)C1=CC(CCC1)=O | C12H12O3
